US07056917B2
(B) 3-[2-(Hydroxymethyl)cyclopropyl]-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4H-pyrido[1,2-a]pyrimidin-4-one
3-[(E)-3-Hydroxy-1-propenyl]-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4H-pyrido[1,2-a]pyrimidin-4-one (81 mg, 0.18 mmol) was added with dichloromethane (3 ml) and a solution of diethyl zinc in hexane (1.02 M, 270 μl, 0.275 mmol) and subsequently added dropwise with iodomethane (30 μl, 0.366 mmol) at room temperature. After the reaction solution was stirred for 2 hours, the reaction was stopped with saturated aqueous ammonium chloride, and the reaction solution was extracted with chloroform. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by thin layer silica gel chromatography (chloroform:methanol=15:1) to obtain 61 mg (73%) of the title compound.

reactant | 3-[(E)-3-Hydroxy-1-propenyl]-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4H-pyrido[1,2-a]pyrimidin-4-one | 0.18 mmol, 81 mg | OC/C=C/C1=C(N=C2N(C1=O)C=CC(=C2)CCC=2SC=C(N2)C(C)C)N2CCOCC2 | C23H28N4O3S
reactant | diethyl zinc | C(C)[Zn]CC
reactant | hexane | 0.275 mmol, 1.02 M, 270 μl | CCCCCC | C6H14
reactant | iodomethane | 0.366 mmol, 30 μl | IC | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 3-[2-(Hydroxymethyl)cyclopropyl]-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4H-pyrido[1,2-a]pyrimidin-4-one | 61 mg, 73% | OCC1C(C1)C1=C(N=C2N(C1=O)C=CC(=C2)CCC=2SC=C(N2)C(C)C)N2CCOCC2 | C24H30N4O3S
